US07678800B2
3-(2-Bromo-phenylsulfanyl)-indole-1-carboxylic acid tert-butyl ester (Method B, C)
To a solution of 26.3 mmol 3-(2-bromo-phenylsulfanyl)-1H-indole in dry CH2Cl2 (120 mL) was added 1.3 mmol of 4-dimethyl aminopyridine and 28.9 of mmol triethylamine. 28.9 mmol of di-tert-butyl-dicarbonate were added and the solution was stirred at room temperature over night under argon. The solution was washed with 0.5 M aqueous HCl. The water phase was extracted with CH2Cl2. The combined organic phase was dried over K2CO3 and evaporated under vacuum. The compound was applied to a silica column in 1/4 ethyl acetate/heptane and filtered through using 1/4 ethyl acetate/heptane. The eluent was evaporated under vacuum to give the title compound.

reactant | 3-(2-bromo-phenylsulfanyl)-1H-indole | 26.3 mmol | BrC1=C(C=CC=C1)SC1=CNC2=CC=CC=C12 | C14H10BrNS
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl-dicarbonate | 28.9 mmol | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 120 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-Bromo-phenylsulfanyl)-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)SC1=C(C=CC=C1)Br | C19H18BrNO2S
